US07563805B2
Ethyl(3R*,4R*)-1-benzyloxycarbonyl-3,4-dimethylpyrrolidine-3-carboxylate
To a solution of ethyl(3R*,4R*)-1-benzyl-3,4-dimethylpyrrolidine-3-carboxylate (2.75 g, 10.0 mmol) in dichloromethane (30 mL), benzyl chloroformate (2.14 mL, 15.0 mmol) was added at room temperature, and the mixture was stirred at room temperature for 6 hours. Benzyl chloroformate (2.14 mL, 15.0 mmol) was also added to the mixture, and the mixture was stirred at room temperature for another 14 hours. The solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 9:1→4:1→2:1) to obtain 1.64 g of the title compound (5.37 mmol, 2 steps, 54%) as a colorless transparent oil.

reactant | ethyl(3R*,4R*)-1-benzyl-3,4-dimethylpyrrolidine-3-carboxylate | 10.0 mmol, 2.75 g | C(C1=CC=CC=C1)N1C[C@@]([C@H](C1)C)(C(=O)OCC)C | C16H23NO2
reactant | benzyl chloroformate | 15.0 mmol, 2.14 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Benzyl chloroformate | 15.0 mmol, 2.14 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Ethyl(3R*,4R*)-1-benzyloxycarbonyl-3,4-dimethylpyrrolidine-3-carboxylate | 5.37 mmol, 1.64 g, 54% | C(C1=CC=CC=C1)OC(=O)N1C[C@@]([C@H](C1)C)(C(=O)OCC)C | C17H23NO4
